US07888344B2
2-Bromo-4,4-dimethylcyclohexane-1,3-dione
To a stirred solution of 4,4-dimethylcyclohexane-1,3-dione (1.4 g, 10 mmol) in AcOH (20 mL) at r.t. was added bromine (1.6 g, 0.51 mL, 10 mmol) dropwise. The reaction was carried out according to Method A to give the title compound in quantitative yield as a light brown solid which was used without further purification. LCMS (ES+) 218.9 (+H)+.

reactant | 4,4-dimethylcyclohexane-1,3-dione | 10 mmol, 1.4 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | bromine | 10 mmol, 0.51 mL, 1.6 g | BrBr | Br2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-Bromo-4,4-dimethylcyclohexane-1,3-dione | quantitative yield | BrC1C(CCC(C1=O)(C)C)=O | C8H11BrO2
